US08455488B2
Synthesis of tert-butyl (S)-5-(2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetamido)-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate (Compound II-46)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-7) 79 mg (0.29 mmol) was coupled with tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate (Compound IV-14) 100 mg (0.19 mmol) to obtain the title compound.

reactant | 2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.29 mmol, 79 mg | ClC1=CC=C(CNC(=O)NN(C)CC(=O)O)C=C1 | C11H14ClN3O3
reactant | tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)-(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate | 0.19 mmol, 100 mg | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C | C28H44N4O5
product | tert-butyl (S)-5-(2-(2-(4-chlorobenzylcarbamoyl)-1-methylhydrazinyl)acetamido)-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate | ClC1=CC=C(CNC(=O)NN(C)CC(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC=2C=CC=C3C=CC=NC23)[C@H](C(OCC)OCC)C)C=C1 | C39H56ClN7O7
